US07732448B2
Into 6 ml of toluene solution of 0.5 g of 4,5,6-trifluoropyrimidine was added dropwise 1 ml toluene solution of 0.51 g of 3,5-dimethylpiperidine (cis/trans diastereomer=about 4/1) at 0° C., and the mixture was stirred for one-and-half hour at same temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.83 g of 4,5-difluoro-6-(3,5-dimethylpiperidino)pyrimidine. This compound had the cis/trans diastereomers originated two methyls on the piperidine ring. The ratio of the cis/trans diastereomer was about 5/1.

reactant | 4,5,6-trifluoropyrimidine | 0.5 g | FC1=NC=NC(=C1F)F | C4HF3N2
reactant | 3,5-dimethylpiperidine | 0.51 g | CC1CNCC(C1)C | C7H15N
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-difluoro-6-(3,5-dimethylpiperidino)pyrimidine | 0.83 g | FC1=NC=NC(=C1F)N1CC(CC(C1)C)C | C11H15F2N3
